US06734203B2
A few drops of concentrated sulfuric acid was added to a solution of 2-chloro-3-[(2-methoxyethyl)amino]-1,4-naphthoquinone (33 g) in acetic anhydride (100 ml) and the mixture was stirred at 45° C. for 1 hour. By adding ethanol (100 ml) to the reaction solution, excess acetic anhydride was esterified. After cooling, ethyl acetate was added to the reaction solution and the mixture was washed with water and brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was crystallized from diethyl ether to give N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide (29 g) as a yellow powder.

reactant | 2-chloro-3-[(2-methoxyethyl)amino]-1,4-naphthoquinone | 33 g | ClC=1C(C2=CC=CC=C2C(C1NCCOC)=O)=O | C13H12ClNO3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sulfuric acid | A few drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide | 29 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(C)=O)CCOC | C15H14ClNO4
